US07981874B2
tert-butyl (2E)-3-{3-[hydroxy(methoxy)phosphoryl]phenyl}acrylate.
Dimethyl phosphite (0.089 ml, 0.971 mmol), tert-butyl (2E)-3-(3-bromophenyl)acrylate (0.25 g, 0.883 mmol), triethylamine (0.369 ml, 2.65 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.153 g, 0.132 mmol) were combined and allowed to heat for approximately eight hours at 100° C. The reaction was cooled and filtered over celite, washing with ethyl acetate. The filtrate was concentrated under reduced presesure. The residue was purified by column chromatography on silica gel, eluting with EtOAc/hexane, followed by CH2Cl2/MeOH. MS: calc'c 299 (MH+), exp 299 (MH+).

reactant | Dimethyl phosphite | 0.971 mmol, 0.089 ml | P(OC)(OC)[O-]
reactant | tert-butyl (2E)-3-(3-bromophenyl)acrylate | 0.883 mmol, 0.25 g | BrC=1C=C(C=CC1)/C=C/C(=O)OC(C)(C)C | C13H15BrO2
reactant | triethylamine | 2.65 mmol, 0.369 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.132 mmol, 0.153 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl (2E)-3-{3-[hydroxy(methoxy)phosphoryl]phenyl}acrylate | OP(=O)(OC)C=1C=C(C=CC1)/C=C/C(=O)OC(C)(C)C | C14H19O5P
